US07084152B2
Sodium cyanoborohydride (63 mg, 1.004 mmol) was added to an ice-cold solution of the N-methyl indole (110 mg, 0.335 mmol) in glacial acetic acid (6 mL). The reaction mixture was allowed to warm to room temperature, stirred for 2 h, cooled in an ice bath, and diluted with H2O (10 mL). Ice-cold concentrated aq. ammonium hydroxide (30 mL) was added until the solution reached pH 12. After extraction (2×) with CH2Cl2, the organic layer was dried over MgSO4/Na2SO4, filtered, and concentrated in vacuo. Purification by column chromatography (SiO2, 10 g, 10% EtOAc/hexanes) gave the desired N-methyl indoline product (15 mg, 15%) as brown oil. The material is air-sensitive and requires storage under nitrogen: 1H NMR (500 MHz, CDCl3) δ 7.28-7.25 (m, 1H), 7.01 (dd, J=10.4, 2.0 Hz, 1H), 6.95 (dd, J=8.2, 1.9 Hz, 1H), 6.59 (d, J=8.1 Hz, 1H), 6.28 (d, J=8.1 Hz, 1H), 4.11 (t, J=5.9 Hz, 1H), 3.50 (dd, J =13, 2.0 Hz, 2H), 3.36-3.32 (m, 2H), 2.88 (dd, J=11.3, 5.2 Hz, 1H), 2.82 (t, J=8.2 Hz, 2H), 2.73 (s, 3H), 2.56 (dd, J=11.4, 7.0 Hz, 1H), 2.41 (S, 3H); IR (KBr) 3052, 2925, 2850, 2786, 1609, 1422, 1265, 739 cm−1; ESI MS m/z=331 [C19H20ClFN2+H]+.

reactant | Sodium cyanoborohydride | 1.004 mmol, 63 mg | C(#N)[BH3-].[Na+]
reactant | N-methyl indole | 0.335 mmol, 110 mg | CN1C=CC2=CC=CC=C12 | C9H9N
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 10 mL | O | H2O
product | N-methyl indoline | 15 mg, 15% | CN1CCC2=CC=CC=C12 | C9H11N
